US05110956
3-(1,3-Benzodioxol-5-yl)propanethiol
25 g of thioacetic acid was added to 53.5 g of safrole in portions, while stirring the mixture at a room temperature or under cooling with ice/water. The reaction was carried out for 30 minutes. A solution of 20 g of sodium hydroxide in a mixture comprising 100 ml of water and 200 ml of ethanol was added to the reaction mixture The obtained mixture was heated under reflux for 20 minutes, cooled, neutralized with dilute sulfuric acid and extracted with 1 l of benzene. The extract was washed with water and the benzene layer was dried over anhydrous sodium sulfate and purified by silica gel column chromatography (hexane) to obtain 42.8 g of the title compound as a colorless oil.

reactant | thioacetic acid | 25 g | C(C)(=S)O | C2H4OS
reactant | safrole | 53.5 g | O1COC2=CC(CC=C)=CC=C12 | C10H10O2
reactant | sodium hydroxide | 20 g | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 3-(1,3-Benzodioxol-5-yl)propanethiol | 42.8 g | O1COC2=C1C=CC(=C2)CCCS | C10H12O2S
